Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine Containing Agents Classifier / Uroxatral / Simvastatin / 
Zetia / Coreg / Celexa / Oxazepam
 
Attending: ___
 
Chief Complaint:
Nausea, Diaphoresis 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ yo male s/p 2 STEMI's in ___ and ___ with 4 
stents placed, HTN, HL, 64 pack year smoking hx who presents for 
an acute episode of nausea, which was his presenting sx for his 
previous MI.  Patient reports that for the last month he has 
been feeling "run down" and tired.  He thought that it was the 
heat, but reports that he "just feels uncomfortable", even 
though he was not having CP, SOB, N/V, F/C.  At baseline he 
walks his dog 3 miles/day, but 3 weeks ago he injured his R 
knee, so he can't determine what his exercise tolerance is since 
he started to feel "lousy".  

At 8am the morning of admission, patient was picking vegetables 
in his garden, when all of a sudden he felt very nauseated, 
started shaking and got very sweaty.  He reports that he did not 
have CP or SOB.  He walked inside to his house, drank some water 
and check his BP, which was 180/81, which he reports is very 
high for him.  He waited 5 mins and checked it again, and it was 
178/80, so he had his wife drive him in to the hospital.  On the 
drive in, the nausea, shaking and sweating stopped.  However, he 
is concerned that this may be another MI as "this felt just like 
my second heart attack". 
 
Past Medical History:
CARDIAC HISTORY:  Acute STEMI ___, status post PTCA/stent
of total proximal LCX occlusion with two Cypher ___ in
series.  Status post non-DES with 90% OM3 ___.
.
Recurrent inferolateral STEMI ___.  Subtotal occlusion of
distal LCX beyond previously placed Cypher stent.  Distal LCX
treated with 2.5 x 5 mm Vision (non-DES) stent.
.
New onset of shortness of breath with decreased exercise 
capacity
late ___.  No unequivocal MI.  Received DES to PDA. 
Unsuccessful PTCA of small OM3 with 80% restenosis of proximal
OM3 stent (___).
.
Hypertension/dyslipidemia.  Exercise related AEA/VEA. 
.  
Other Past History: 
Status post repair of right rotator cuff; 
recurrent left rotator cuff.  
GERD, 
status post
laparoscopic cholecystectomy ___.  
OSA/SDB.  
BPH. 
Anxiety
Barretts esophagus
hiatal hernia.

 
Social History:
___
Family History:
Mother had a 4-vessel CABG, was diabetic, and died at age ___ of 
multiple causes.  Father died of widely metastatic cancer, no 
primary source ever found, in his mid ___.  Pt has a sister who 
is healthy.
 
Physical Exam:
VS - 98.0, 138/94, 80, 18, 4L NC  
Gen: WDWN elderly female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 6-7 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Some 
accessory muscle use on breathing, however minimal SOB sx. 
Diffuse crackles in all lung fields bilaterally.  No wheezes 
auscultated
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
 
Pertinent Results:
___ 06:44PM   GLUCOSE-129* UREA N-15 CREAT-0.9 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-30 ANION GAP-13
___ 06:44PM   CK(CPK)-42*
___ 06:44PM   CK-MB-2 cTropnT-<0.01
___ 06:44PM   CALCIUM-9.5 PHOSPHATE-3.7 MAGNESIUM-1.9
___ 06:44PM   WBC-6.9 RBC-4.79 HGB-15.1 HCT-42.2 MCV-88 
MCH-31.5 MCHC-35.7* RDW-13.5
___ 06:44PM   PLT COUNT-152
___ 06:44PM   ___ PTT-28.5 ___
___ 10:55AM   cTropnT-<0.01
 
Brief Hospital Course:
#R/O MI:  As pt reports that his sx were exactly like his second 
MI, we were concerned for ACS. MI was ruled out with no EKG 
changes and trop neg x3.  Patient had a pMIBI study which showed 
a fixed inferior MI but no areas with reversible ischemic 
changes. He was continued on his home medications of metoprolol 
12.5mg TID, ___ and plavix, fish oil (pt cannot tolerate 
statins)  
.  
#. HTN - Pt's BP ranged from 128-152/ 76-96, P 45-60. Pt reports 
he cannot tolerate lisinopril or lasix, and as his HR is brady 
in the 50's, hesitant to uptitrate BB. He was kept on his home 
dose of metoprolol 12.5mg TID. On discharge, his BP was 128/ 76. 

.
#. GERD - pt has ___ esophagus from severe acid reflux. 
will continue ranitidine BID.
 
Medications on Admission:
Plavix 75mg ___, 
___ 325mg ___.
Metoprolol tartrate 12.5 t.i.d.
SLTNG 0.4 p.r.n. (not used)
Avodart 0.5mg ___
Ranitidine 150 b.i.d.
Fish oil 1200mg ___ 
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO TID (3 
times a day).  
4. Avodart 0.5 mg Capsule Sig: One (1) Capsule PO QHS (once a 
day (at bedtime)).  
5. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. Fish Oil  Oral
7. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual PRN chest pain as needed for chest pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: atypical chest pain
Secondary: Hypertension, coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with chest discomfort. Your 
blood tests and electrocardiogram did not indicate that you were 
having a heart attack. You had a stress test that showed an area 
of your heart damaged from your previous heart attack. It shows 
that the other areas of your heart are healthy and are getting 
enough blood during exercise. 

We did not make any changes to your medications. 
 
Followup Instructions:
___